US07772271B2
To a solution 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxyethoxy)-1H-indole-3-carbonitrile (530 mg, 1.58 mmol) in EtOAc (10 mL) is added 2M aqueous K2CO3 (556 uL, 5.9 mmol) and 4-methoxyphenyl chloroformate over a period of 5 min. The reaction mixture is stirred further for 3 h at room temperature. The reaction mixture is diluted with EtOAc (20 mL) and then washed with water (5 mL). The solvents are removed under reduced pressure and the residue is dissolved in EtOAc and then triturated with hexane. The precipitate is collected by filtration and washed with 50% EtOAc/hexane and dried in vacuo to afford {4-[3-cyano-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indol-2-yl]-phenyl}-carbamic acid 4-methoxy-phenyl ester (761 mg, 98%).

reactant | 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxyethoxy)-1H-indole-3-carbonitrile | 1.58 mmol, 530 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCOC)C1CCC1 | C22H23N3O2
reactant | K2CO3 | 5.9 mmol, 2M, 556 uL | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC | C8H7ClO3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | {4-[3-cyano-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indol-2-yl]-phenyl}-carbamic acid 4-methoxy-phenyl ester | 761 mg, 98% | COC1=CC=C(C=C1)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCOC)C1CCC1)=O | C30H29N3O5
